US07244758B2
C. Synthesis of (Methyl-pyrrolidine-3-ylmethyl-amine)-carbamic acid tert-butyl ester
To a solution of (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester methyl amine (1.0 g, 3.28 mmol) in methanol (35 ml) was added Pd/C (20%) (0.22 g). The resulting mixture was hydrogenated at 50 Psi over night. The Pd was filtered over Celite and evaporated to dryness to give the desired product in 92% yield.

reactant | (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester methyl amine | 3.28 mmol, 1.0 g | CN.C(C)(C)(C)OC(NCC1CN(CC1)CC1=CC=CC=C1)=O
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | methanol | 35 ml | CO | CH4O
catalyst | Pd/C | 0.22 g | [Pd] | Pd
product | (Methyl-pyrrolidine-3-ylmethyl-amine)-carbamic acid tert-butyl ester | 92% yield | C(C)(C)(C)OC(N)=O.CNCC1CNCC1 | InChI=1S/C6H14N2.C5H11NO2/c1-7-4-6-2-3-8-5-6;1-5(2,3)8-4(6)7/h6-8H,2-5H2,1H3;1-3H3,(H2,6,7)
